US05175301
1-(6-Chloro-3-pyridylmethyl)amino-1-methylthio-2-nitroethylene (Compound 27)
To 100 ml of EtOH were added 2.4 g (1.5×10-2 mole) of 1,1-bis(methylthio)-2-nitroethylene and 1.4 g (9.8×10-3 mole) of 6-chloro-3-pyridylmethylamine and the mixture was refluxed for 2 hours. The EtOH was distilled off and the residue was subjected to silica gel column chromatography using CH2Cl2 as an eluent. The procedure gave 1.2 g of the title compound as a pale yellow solid.

reactant | 1,1-bis(methylthio)-2-nitroethylene | 1.5×10-2 mole, 2.4 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 6-chloro-3-pyridylmethylamine | 9.8×10-3 mole, 1.4 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
solvent | EtOH | 100 ml | CCO | C2H6O
product | 1-(6-Chloro-3-pyridylmethyl)amino-1-methylthio-2-nitroethylene | 1.2 g | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])SC | C9H10ClN3O2S
